US09381191B2
Step 1: Preparation of 2-((3-((4-fluorophenyl) ethynyl)imidazo-[1,2-a]pyridin-2-yl)methoxy)benzoyl chloride
0.6 g (1.553 mmol) of 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)-benzoic acid were suspended in 20 ml of dichloromethane with magnetic stirring, the mixture was placed in a bath at 0° C. and then 0.408 ml (4.66 mmol) of oxalyl chloride were added drop wise, finally a few drops of dimethylformamide were added. The cold bath was withdrawn and then the mixture was stirred at r.t. for 2 h. The reaction medium was concentrated in vacuo and immediately used in the next step.

reactant | 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)-benzoic acid | 1.553 mmol, 0.6 g | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COC2=C(C(=O)O)C=CC=C2 | C23H15FN2O3
reactant | oxalyl chloride | 4.66 mmol, 0.408 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 2-((3-((4-fluorophenyl) ethynyl)imidazo-[1,2-a]pyridin-2-yl)methoxy)benzoyl chloride | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COC2=C(C(=O)Cl)C=CC=C2 | C23H14ClFN2O2
